US07642264B2
4-{1-[4-(3-Methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide
To a cooled and stirred solution of N-tert-butyl-4-{1-[6-(3-methyl-4-trifluoromethylphenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide (0.057 g) in dichloromethane (2 mL) was added TFA (2 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (2.5 mL) and MeOH (2.5 mL) were added. The mixture was stirred at room temperature for 30 min, the precipitate was collected by filtration and washed with water. The crude product was further purified by crystallization (dichloromethane/heptane/MeOH) to yield the title compound as a white solid (0.038 g, 7%). MS (ISN) 526.5 [(M−H)−]; mp 287° C.

reactant | N-tert-butyl-4-{1-[6-(3-methyl-4-trifluoromethylphenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | 0.057 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C26H23F6N5O2S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-{1-[4-(3-Methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | 0.038 g, 7% | CC=1C=C(C=CC1C(F)(F)F)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)C1=CC=C(C=C1)S(=O)(=O)N | C22H15F6N5O2S
